US09289510B2
Synthesis of 3-azidopropyl 4-cyano-4-thiobenzoylsulfanyl-pentanoate (CTP-N3, CTA 3)
4-cyano-4-thiobenzoylsulfanyl-pentanoic acid (CTP, 1.0 g, 3.6 mmol) and DMAP (439.8 mg, 3.6 mmol) were dissolved in anhydrous DCM (50 mL). The solution was stirred for 5 min in ice bath, and EDCI (690.1 mg, 3.6 mmol) was added and stirred for 30 min. 3-Azidopropanol (364 mg, 3.6 mmol) was added and the solution was stirred in ice bath for 30 min and at room temperature for another 8 h. After reaction, the solution was washed with NaHCO3 aq. (satd.) and then H2O. The organic layer was dried (Na2SO4), solvent removed by rotary evaporation and the crude product was purified by column chromatography (silicagel 60 Å, 200-400 mesh, ethyl acetate:hexane, 1:4) to give rose-red oil in 84.6% yield. The structure of this compound was confirmed by 1H NMR and 13C NMR spectroscopy. 1H NMR (300 MHz, CDCl3, δ in ppm): 1.90-1.93 (m, 5 H, —CH2CH2N3, —CH3), 2.45-2.60 (m, 2 H, C(CN)CH2—), 2.68 (m, 2 H, C(CN)CH2CH2—), 3.40 (t, 2 H, —CH2N3), 4.21 (t, 4 H, —OCH2CH2—), 7.39 (m, 2 H, PH-2H), 7.57 (m, 1 H, PH-4H), 7.89 (m, 2 H, PH-3H). 13C NMR (75 MHz, CDCl3, δ in ppm): 222.40, 171.43, 144.74, 133.29, 128.82, 126.91, 118.68, 62.22, 48.34, 45.93, 33.60, 29.98, 28.27, 24.41.

reactant | 4-cyano-4-thiobenzoylsulfanyl-pentanoic acid | 3.6 mmol, 1.0 g | C(#N)C(CCC(=O)O)(C)SC(C1=CC=CC=C1)=S | C13H13NO2S2
reactant | EDCI | 3.6 mmol, 690.1 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-Azidopropanol | 3.6 mmol, 364 mg | N(=[N+]=[N-])CCCO | C3H7N3O
catalyst | DMAP | 3.6 mmol, 439.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-azidopropyl 4-cyano-4-thiobenzoylsulfanyl-pentanoate | 84.6% yield | C(#N)C(CCC(=O)OCCCN=[N+]=[N-])(C)SC(C1=CC=CC=C1)=S | C16H18N4O2S2
